US05037883
The condensation of BOC-Val-OH with HCl. Ala-OMe was carried out by a mixed anhydride method. 12 g (0.055 mol) of BOC-Val-OH was dissolved in 40 ml of dry THF and 5.6 g (0.055 mol) of triethylamine and 6.6 g (0.06 mol) of chloroformic acid ethyl ester was added to the solution after cooling to -15° C. After 10 minutes at low temperature 7.7 g (0.055 mol) of HCl.Ala-OMe and 5.6 g (0.055 mol) of triethylamine were slowly added to the mixture at -15° C. The reaction mixture was stirred for a further 16 hours at room temperature. The THF was evaporated and the product extracted with ethyl acetate. Recrystalization from ether gave 8.1 g of analytically pure BOC-Val-Ala-OMe, m.p. 138°-148° C.

reactant | BOC-Val-OH | N([C@@H](C(C)C)C(=O)O)C(=O)OC(C)(C)C | C10H19NO4
reactant | HCl | Cl | ClH
reactant | Ala-OMe | N[C@@H](C)C(=O)OC | C4H9NO2
reactant | BOC-Val-OH | 0.055 mol, 12 g | N([C@@H](C(C)C)C(=O)O)C(=O)OC(C)(C)C | C10H19NO4
reactant | triethylamine | 0.055 mol, 5.6 g | C(C)N(CC)CC | C6H15N
reactant | chloroformic acid ethyl ester | 0.06 mol, 6.6 g | C(C)OC(=O)Cl | C3H5ClO2
reactant | HCl | 0.055 mol, 7.7 g | Cl | ClH
reactant | triethylamine | 0.055 mol, 5.6 g | C(C)N(CC)CC | C6H15N
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | BOC-Val-Ala-OMe | N([C@@H](C(C)C)C(=O)N[C@@H](C)C(=O)OC)C(=O)OC(C)(C)C | C14H26N2O5
